US05204326
Preparation of Boc-Gly-Ala-Ser(Bzl)-Leu-OEt
By using 3.50 g of Boc-Ala-Ser(Bzl)-Leu-OEt and 1.30 g of Boc-Gly-OH, and the same procedure as in Reference Example 15 was repeated to obtain 3.03 g (yield: 77.8%) of the above-mentioned objective product.

reactant | Boc-Ala-Ser(Bzl)-Leu-OEt | 3.50 g | N([C@@H](C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C26H41N3O7
reactant | Boc-Gly-OH | 1.30 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
product | Boc-Gly-Ala-Ser(Bzl)-Leu-OEt | 3.03 g, yield: 77.8% | N(CC(=O)N[C@@H](C)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C28H44N4O8
